.title KiCad schematic
.include "./edt01.sub"
.model __D1 D
XxPWM1 Net-_V2-Pad1_ /PWM_out PWMtri fs=10000
V2 Net-_V2-Pad1_ 0 DC 0.5
D1 /L1_neg /R_pos __D1
C1 /R_pos 0 100u
R1 /R_pos 0 100
V1 /Vin_pos 0 DC 12
L1 /Vin_pos /L1_neg 5m
XxSW1 /L1_neg 0 /PWM_out power_sw
* .tran 0.1us 30ms
* .print tran V(/Vin_pos) V(/L1_neg) V(/R_pos) I(L1)
* .end
