.title KiCad schematic
.include "./edt01.sub"
XxSW1 /L1_neg 0 /PWM_out power_sw
R1 /R_pos 0 100
C1 /R_pos 0 100u
V1 /Vin_pos 0 DC 12 
L1 /Vin_pos /L1_neg 5m
D1 /L1_neg /R_pos Def
V2 Net-_V2-Pad1_ 0 DC 0.5 
XxPWM1 Net-_V2-Pad1_ /PWM_out PWMtri
* .tran 0.1us 30ms

